* © 	Littelfuse Inc.
*
*     March 25, 2003
*	version 4.2
*
* Representing typical characteristics for the following UltraMOV series varistors:
*
*V20E130 V20E140 V20E150 V20E175 V20E200
*V20E230 V20E250 V20E275 V20E300
*V20E320 V20E385 V20E420 V20E440
*V20E460 V20E510 V20E550 V20E625
*
.SUBCKT UMOV  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
b_non_lin	3 1	V=V(6) tripdv=10m tripdt=50n
C 1 2 1p
b  0 6	i=T*(
+       10**(
+	+a1+a2*(log10(limit(v(4),a7,1g))-3)
+	+a3*2**(-log10(limit(v(4),a7,1g))+3)
+	+a4*exp(-log10(limit(v(4),a7,1g))+3)
+	+a5*exp(log10(limit(v(4),a7,1g))-3)
+	+a6*2**(log10(limit(v(4),a7,1g))-3)
+	)
+	-10**(
+	a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+	+a3*2**(-log10(-limit(v(4),-1g,-a7))+3)
+	+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+	+a5*exp(log10(-limit(v(4),-1g,-a7))-3)
+	+a6*2**(log10(-limit(v(4),-1g,-a7))-3)  
+	)
+	+limit(v(4)/a7*v8,-v8,v8)) Rpar=1 Cpar=10f
*
L_series	5 2  {L}  Rser=100u 
BH1		0 4  i=i(VH_H1) Rpar=1k Cpar=5p
*
VH_H1		5 3 0 
.param 	v8={10**(a1+a2*(log10(a7/1e3))
+	+a3*2**(-log10(a7/1e3))
+	+a4*exp(-log10(a7/1e3))
+	+a5*exp(log10(a7/1e3))
+	+a6*2**(log10(a7/1e3)))}
*
C_parallel 1 5 {C} Rpar=1T Rser=10
*
.ENDS UMOV
*
*
.SUBCKT V20E130 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.9nF a1=2.398 a2=4.817E-2 a3=1.273E-2 a4=-2.058E-3 a5=1.193E-2 a6=-2.71E-2
.ENDS
*
.SUBCKT V20E140 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.75nF a1=2.429 a2=4.817E-2 a3=1.273E-2 a4=-2.058E-3 a5=1.193E-2 a6=-2.71E-2
.ENDS
*
.SUBCKT V20E150 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.6nF a1=2.467 a2=4.817E-2 a3=1.273E-2 a4=-2.058E-3 a5=1.193E-2 a6=-2.71E-2
.ENDS
*
.SUBCKT V20E175 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.4nF a1=2.518 a2=4.817E-2 a3=1.273E-2 a4=-2.058E-3 a5=1.193E-2 a6=-2.71E-2
.ENDS
*
.SUBCKT V20E200 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.3nF a1=2.558 a2=3.756E-2 a3=1.103E-2 a4=-1.894E-3 a5=8.026E-3 a6=-8.958E-3
.ENDS
*
.SUBCKT V20E230 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1.1nF a1=2.649 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E250 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=2.683 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E275 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=900pF a1=2.726 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E300 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=800pF a1=2.764 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E320 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=750pF a1=2.8 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E385 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=700pF a1=2.885 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E420 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=600pF a1=2.925 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E440 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=2.947 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E460 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=2.967 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E510 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=350pF a1=3.006 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E550 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=300pF a1=3.051 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
.SUBCKT V20E625 1 2 PARAMS: TOL=0
X1	1 2	UMOV PARAMS: T={1+TOL/100} L=12nH C=250pF a1=3.092 a2=5.574E-2 a3=1.837E-2 a4=-3.412E-3 a5=1.362E-2 a6=-3.772E-2
.ENDS
*
*