.Subckt MOS_Pin D Di G Gi S Si params: Ld=7n Lg=4n Ls=4n
Ld d di {Ld} Rser=0 Rpar={6.e9*Ld}
Ls s si {Ls} Rser=0 Rpar={6.e9*Ls}
Lg g gi {Lg} Rser=0 Rpar={6.e9*Lg}
.ends MOS_Pin
